* Fraunhofer model

* Automatically generated device model
* Generated: 27-Jan-2020 08:23:36

.SUBCKT FRAUNHOFER D G S

********************************
** Current generator circuit **
********************************
.FUNC PAR_B(V) {TABLE(V,4,2.8676,5.6,8.7653,7.2,22.6109,8.8,51.5624,10.4,110.1295,12,232.4464)}
.FUNC PAR_L(V) {TABLE(V,4,-0.84181,5.6,-0.7757,7.2,-0.75473,8.8,-0.75066,10.4,-0.74576,12,-0.72877)}
.FUNC PAR_V(V) {TABLE(V,4,1.4671,5.6,1.8799,7.2,2.5983,8.8,3.5846,10.4,4.8017,12,6.0991)}
.FUNC PAR_A(V) {TABLE(V,4,0.19033,5.6,0.17874,7.2,0.13158,8.8,0.088134,10.4,0.055361,12,0.032285)}
.FUNC PAR_EPS(V) {TABLE(V,-5,4.1569,0,2.7642,5,1.8487,10,0.6376,15,0.15779,20,0.0137)}
.FUNC PAR_RON(V) {TABLE(V,-5,0.046152,0,0.11078,5,0.10099,10,0.094408,15,0.076227,20,0.064828)}
.FUNC PAR_VFW(V) {TABLE(V,-5,2.8794,0,1.325,5,0.30711,10,2.8783e-14,15,1.463e-09,20,0.025041)}
B1 D S I = IF(V(D,S)>=0,PAR_B(V(G,S))*(1+PAR_L(V(G,S))*(1-exp(-V(D,S)/PAR_V(V(G,S)))))*tanh(PAR_A(V(G,S))*V(D,S)),
+		IF(V(S,D)-PAR_VFW(V(G,S))<=0,0,
+		IF(V(S,D)-PAR_VFW(V(G,S))>PAR_EPS(V(G,S)),-((V(S,D)-PAR_VFW(V(G,S)))/PAR_RON(V(G,S))-(1/(2*PAR_EPS(V(G,S))*PAR_RON(V(G,S))))*PAR_EPS(V(G,S))**2),
+		-((V(S,D)-PAR_VFW(V(G,S)))**2/(2*PAR_EPS(V(G,S))*PAR_RON(V(G,S)))))))
********************************

********************************
* Non-linear Device Capacitors *
********************************
CGS G1 S1 Q = kgs*1e-12*TABLE(x,-2000,-3370834.5185,0,0,0.2,337.0835,0.5,849.1042,0.8,1367.9791,1.1,1893.6002,1.5,2603.3149,1.9,3318.9497,2.3,4038.7201,2.8,4943.0189,3.8,6760.9986,5.1,9130.2459,5.8,10409.7609,7.8,14080.7159,9.8,17763.0413,12,21819.6228,14,25511.6228,18,32903.6228,28,51396.6228,45,82846.6228,50,92094.1228,60,110584.1228,70,129069.1228,80,147544.1228,90,166009.1228,100,184464.1228,150,276614.1228,200,368564.1228,300,551964.1228,400,734764.1228,500,917014.1228,750,1371139.1228,800,1461764.1228,1000,1823764.1228)
CDS D1 S1 Q = kds*1e-12*TABLE(x,-5000,4329181243396.565,0,0,0.5,-432918124.3397,1,-673406913.4955,1.2,-717309291.3894,1.5,-747949051.4185,1.8,-758692138.7969,2,-761200916.0865,2.2,-762166171.779,2.4,-762461393.9196,2.6,-762523103.7076,2.9,-762535040.0011,3,-762543296.7706,3.6,-762625584.111,3.9,-762643745.1934,4.2,-762647471.5078,4.4,-762653455.4702,4.6,-762672580.4173,5,-762775140.4246,5.3,-762924512.2808,6,-763512810.0662,7.6,-765392163.2283,8.3,-766102756.4781,9.1,-766723341.5178,9.5,-766959067.9366,10,-767194053.8609,12,-767722226.3352,14,-767875556.7238,16,-767913535.7285,18,-767922084.658,20,-767923443.632,22,-767923148.4129,24,-767922527.7705,30,-767920512.7183,35,-767918943.3303,40,-767917473.3422,45,-767916085.8425,50,-767914768.3425,60,-767912303.3425,70,-767910023.3425,80,-767907893.3425,90,-767905893.3425,100,-767903998.3425,150,-767895573.3425,200,-767888498.3425,300,-767876548.3425,400,-767866498.3425,500,-767857698.3425,750,-767839073.3425,800,-767835823.3425,1000,-767823323.3425)
CDG D1 G1 Q = kdg*1e-12*TABLE(x,-9000,-11746433.6175,0,0,0.9,1174.6434,1.6,1797.3866,2.5,2144.4678,3.2,2298.7098,4.1,2445.4644,5.5,2617.4899,7.3,2787.2303,9.4,2946.1647,12,3111.5777,14,3224.5777,18,3425.5777,22,3605.5777,26,3770.5777,30,3923.5777,35,4103.5777,40,4273.5777,45,4433.5777,50,4586.0777,60,4876.0777,70,5146.0777,80,5401.0777,90,5646.0777,100,5881.0777,150,6956.0777,200,7906.0777,300,9556.0777,400,11006.0777,500,12356.0777,750,15481.0777,1000,18481.0777)
CGS1 G1 S1 1e-12
CDS1 D1 S1 1e-12
CDG1 D1 G1 1e-12
********************************

********************************
** Parasitic Pin Inductances **
********************************
LDRAIN  D D1 {Ld} Rser=0
LGATE   G G1 {Lg} Rser=0
LSOURCE S1 S {Ls} Rser=0
********************************

********************************
**** Model Input Parameters ****
********************************
.PARAM  Ld = 1e-10
.PARAM  Lg = 4.895e-09
.PARAM  Ls = 2.6e-09
.PARAM kgs = 1
.PARAM kds = 1
.PARAM kdg = 1
********************************

.ENDS FRAUNHOFER
